US06919331B2
(4-Bromo-2-nitro-phenyl)-(3-methyl-butyl)-amine was prepared by the same procedure as 4-(3-methyl-butylamino)-3-nitro-benzonitrile, except using 3-bromo-6-fluoro-nitrobenzene.

reactant | 4-(3-methyl-butylamino)-3-nitro-benzonitrile | CC(CCNC1=C(C=C(C#N)C=C1)[N+](=O)[O-])C | C12H15N3O2
reactant | 3-bromo-6-fluoro-nitrobenzene | BrC=1C=C(C(=CC1)F)[N+](=O)[O-] | C6H3BrFNO2
product | (4-Bromo-2-nitro-phenyl)-(3-methyl-butyl)-amine | BrC1=CC(=C(C=C1)NCCC(C)C)[N+](=O)[O-] | C11H15BrN2O2
